US05763489
A solution of [5-(ethoxycarbonylmethoxy)-1,2,3,4-tetrahydro-2-naphthyl]methyl N,N-diphenylcarbamate (59 mg) and 1N sodium hydroxide solution (0.15 ml) in ethanol (1.5 ml) was stirred at room temperature for 1 hour and neutralized with 1N hydrochloric acid (0.15 ml), then extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was powdered from n-hexane to afford [5-(carboxymethoxy)-1,2,3,4-tetrahydro-2-naphthyl]methyl N,N-diphenylcarbamate (47 mg) as a colorless powder. mp: 137°-141.5° C.

reactant | [5-(ethoxycarbonylmethoxy)-1,2,3,4-tetrahydro-2-naphthyl]methyl N,N-diphenylcarbamate | 59 mg | C1(=CC=CC=C1)N(C(OCC1CC2=CC=CC(=C2CC1)OCC(=O)OCC)=O)C1=CC=CC=C1 | C28H29NO5
reactant | sodium hydroxide | 1N, 0.15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.15 ml | Cl | ClH
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | [5-(carboxymethoxy)-1,2,3,4-tetrahydro-2-naphthyl]methyl N,N-diphenylcarbamate | 47 mg | C1(=CC=CC=C1)N(C(OCC1CC2=CC=CC(=C2CC1)OCC(=O)O)=O)C1=CC=CC=C1 | C26H25NO5
